US06162799
To a stirred solution of 2-hydroxy-3-(9-trimethylsilylnonyl)-1,4-naphthoquinone, Example 12, (100 mg, 0.27 mmol) in dry dichloromethane (10 ml) at room temperature was added pyridine (0.5 ml) and, after 3 minutes, propanoyl chloride (62 mg, 0.67 mmol). The reaction was stirred for 2 h before diluting with dichloromethane (50 ml), washing with water (2×30 ml), dilute hydrocholic acid (30 ml), saturated sodium chloride solution (30 ml) and dried (MgSO4). Filtration and evaporation of the solvent under reduced pressure and chromatography, eluent hexane/ether, gave 2-propanoyloxy-3-(9-trimethylsilylnonyl)-1,4-naphthoquinone (112 mg). m. pt. 41-43° C. NMR peaks at: 184.6, 178.2, 151.2, 139.8, 134.0, 133.7, 132.1, 130.9, 126.7, 126.5, 33.6, 29.7, 29.4, 29.4, 29.3, 29.3, 28.5, 24.3, 23.9, 16.7, -1.6; 171.6, 27.3, 9.1 (COCH2CH3).

reactant | 2-hydroxy-3-(9-trimethylsilylnonyl)-1,4-naphthoquinone | OC=1C(C2=CC=CC=C2C(C1CCCCCCCCC[Si](C)(C)C)=O)=O | C22H32O3Si
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | propanoyl chloride | 0.67 mmol, 62 mg | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-propanoyloxy-3-(9-trimethylsilylnonyl)-1,4-naphthoquinone | 112 mg | C(CC)(=O)OC=1C(C2=CC=CC=C2C(C1CCCCCCCCC[Si](C)(C)C)=O)=O | C25H36O4Si
